US03974187
2,3-Dimethoxy-5-methyl- 6-decyl-1,4-benzoquinone
2,3-Dimethoxy-5-methyl-1,4-benzoquinone (1.82 g., 10 mmol) was dissolved in 50 ml glacial acetic acid, and the mixture was heated to 90°-95°C under nitrogen. Then, a mixture of diundecanoyl peroxide (7.4 g., 20 mmol) in 5 ml of acetic acid was added dropwise over a 2-hour period. The reaction mixture was allowed to stir for another 20 hours at 90°-95°C, and then evaporated to dryness in vacuo. The residue was subjected to a silica gel column and eluted stepwise with solvent systems of increasing polarity from pure hexane to hexane-chloroform (6:4). The collected orange fraction was concentrated and further purified on the preparative thin layer plates developed with a mixture of chloroform: hexane: ether (10:10:1) to give a total of 1.4 g of pure product. Yield 43%. Anal. (C19H30O4). C,H.

reactant | 2,3-Dimethoxy-5-methyl-1,4-benzoquinone | 10 mmol, 1.82 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | diundecanoyl peroxide | 20 mmol, 7.4 g | C(CCCCCCCCCC)(=O)OOC(CCCCCCCCCC)=O | C22H42O4
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethoxy-5-methyl- 6-decyl-1,4-benzoquinone | 1.4 g, Yield 43% | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC)=O | C19H30O4
